US09371320B2
C) 1-(3-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)-N,N-dimethylmethanamine
To a solution of 3-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzyl methanesulfonate (75 mg), dimethylamine hydrochloride (79 mg) and sodium iodide (29 mg) in DMF (1 mL) was added triethylamine (0.135 mL), and the mixture was stirred at 90° C. for 2 hr. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (basic silica gel, ethyl acetate/hexane) to give the title compound (62 mg).

reactant | 3-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzyl methanesulfonate | 75 mg | CS(=O)(=O)OCC1=CC(=CC=C1)C1=NN(C2=C1C(=NC=C2)OC)C2=C(C=CC=C2F)F | C21H17F2N3O4S
reactant | dimethylamine hydrochloride | 79 mg | Cl.CNC
reactant | sodium iodide | 29 mg | [I-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.135 mL | C(C)N(CC)CC | C6H15N
product | 1-(3-(1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)-N,N-dimethylmethanamine | 62 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C=2C=C(C=CC2)CN(C)C | C22H20F2N4O
